US04851526
4-[Ethyl(heptyl)amino]butanol
In a manner similar to Preparation 5, react 4-[ethyl-(heptyl)amino]-4-oxobutyric acid with lithium aluminum hydride to obtain the title compound.

reactant | 4-[ethyl-(heptyl)amino]-4-oxobutyric acid | C(C)N(C(CCC(=O)O)=O)CCCCCCC | C13H25NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-[Ethyl(heptyl)amino]butanol | C(C)N(CCCCO)CCCCCCC | C13H29NO
